US05446045
5-Amino-3-(4-hydroxybutyl)thiazolo[4,5-d]-pyrimidine-2,7(3H, 6H)-dione
A mixture of 5-Amino-3-(4-acetoxybutyl)thiazolo[4,5-d]pyrimidine-2,7(3H,6H)-dione (230 mg, 771 izmol) and conc. NH4OH (10 mL) was placed in a pressure bottle and stirred at ambient temperature for 18 h. The solution was evaporated under vacuum and the residual solid was stirred with H2O (10 mL). The solid was collected by filtration, crystallized from a MeOH:H2O mixture and dried in vacuum at 80° C. for 3 d; 120 mg (468 μmol, 61%), mp 258°-260° C. Ir (KBr): ν 3305 and 3189 (OH, NH, NH2), and 1650 broad (C=O, C=N) cm-1. Uv, λ max (nm), (ε×10-3): pH 1, 302 (9.83),250 (8.47), 222 (30.3); H2O, 302 (9.70), 250 (8.37), 222 (30.4); pH 11, 292 (7.71), 250 (7.47), 224 (9.62). 1H nmr (DMSO-d6): δ1.35-1.42 (m, 2 H, CH2), 1.60-1.68 (m, 2 H, CH2), 3.38 (m, 2 H, OCH2), 3.76 (t, 2 H, NCH2), 4.40 (t, 1 H, OH), 6.89 (brs, 2 H, NH2), and 11.06 (br s, 1 H, NH). Anal. Calc'd for C9H12N4O3S (256.28): C, 42.18; H, 4.72; N, 21.86. Found: 42.05; H, 4.67; N, 21.72.

reactant | 5-Amino-3-(4-acetoxybutyl)thiazolo[4,5-d]pyrimidine-2,7(3H,6H)-dione | 230 mg | NC=1NC(C2=C(N1)N(C(S2)=O)CCCCOC(C)=O)=O | C11H14N4O4S
solvent | NH4OH | 10 mL | [NH4+].[OH-]
product | 5-Amino-3-(4-hydroxybutyl)thiazolo[4,5-d]-pyrimidine-2,7(3H, 6H)-dione | NC=1NC(C2=C(N1)N(C(S2)=O)CCCCO)=O | C9H12N4O3S
